US06939883B2
Step 4A 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-(3-methoxyphenyl)-5-formyl-4-pyridone:
1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-formyl-pyrid-4-one (1.36 g, 3.8 mmol) stirred with 3-methoxyphenyl boronic acid (696 mg, 4.6 mmol) and tetrakis(triphenylphosphine)palladium(0) (439 mg, 380 μmol) in benzene/ethanol/DME (76 ml, 10/1/11) and barium hydroxide (30 mL, sat., aq.) under N2 at 90° C., protected from light over 8 hours. The organic layer was then concentrated and purified using flash silica chromatography (ethyl acetate/hexane-1/9), giving the product as a cream-colored solid (622 mg, 1.6 mmol, 42% yield). 1H NMR (CDCl3, 300 MHz) δ 10.55 (s, 1H), 7.41-7.31 (m, 2H), 7.00-6.74 (m, 5H), 5.35 (s, 2H), 3.81 (s, 3H), 2.79 (s, 3H), 2.25 (s, 3H); MS: 384 (MH+).

reactant | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-bromo-5-formyl-pyrid-4-one | 3.8 mmol, 1.36 g | FC1=C(CN2C(=C(C(C(=C2C)C=O)=O)Br)C)C(=CC=C1)F | C15H12BrF2NO2
reactant | 3-methoxyphenyl boronic acid | 4.6 mmol, 696 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
solvent | benzene ethanol DME | 76 ml | C1=CC=CC=C1.C(C)O.COCCOC
solvent | barium hydroxide | 30 mL | [OH-].[Ba+2].[OH-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 380 μmol, 439 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,6-Difluorobenzyl)-2,6-dimethyl-3-(3-methoxyphenyl)-5-formyl-4-pyridone | 1.6 mmol, 622 mg, 42% yield | FC1=C(CN2C(=C(C(C(=C2C)C=O)=O)C2=CC(=CC=C2)OC)C)C(=CC=C1)F | C22H19F2NO3
